US08877742B2
2-amino-4-bromo-5-fluorobenzoic acid, hydrochloride
To a mixture of 4-bromo-5-fluoro-2-nitrobenzoic acid (10 g, 37.9 mmol) and HCl (70 mL, 852 mmol) in water (70 mL) was added tin(II) chloride (21.55 g, 114 mmol) and the mixture was then heated at 90° C. for 3 hours. After cooling to RT, the formed precipitate was filtered, washed with water and collected to give title compound (8.51 g). LCMS (A): m/z [(M−HCl)+H]+ 234/236, C7H5BrFNO2.HCl requires 269/271 (acidic).

reactant | 4-bromo-5-fluoro-2-nitrobenzoic acid | 37.9 mmol, 10 g | BrC1=CC(=C(C(=O)O)C=C1F)[N+](=O)[O-] | C7H3BrFNO4
reactant | HCl | 852 mmol, 70 mL | Cl | ClH
reactant | tin(II) chloride | 114 mmol, 21.55 g | [Sn](Cl)Cl
solvent | water | 70 mL | O | H2O
product | 2-amino-4-bromo-5-fluorobenzoic acid, hydrochloride | 8.51 g | Cl.NC1=C(C(=O)O)C=C(C(=C1)Br)F | InChI=1S/C7H5BrFNO2.ClH/c8-4-2-6(10)3(7(11)12)1-5(4)9;/h1-2H,10H2,(H,11,12);1H
